US06046220
4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzaldehyde.
1.3 g (4 mmol) of 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzene-methanol and 20 ml of dichloromethane are introduced into a round-bottomed flask and 3.4 g (39.2 mmol) of manganese oxide are added. The mixture is stirred at room temperature for eight hours. Magnesium sulphate is added to the reaction medium, the mixture is filtered and the filtrate is evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of ethyl acetate and heptane (10/90). After evaporation of the solvents, 930 mg (29.5%) of 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzaldehyde are collected in the form of a yellow oil.

reactant | 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzene-methanol | 4 mmol, 1.3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#CC1=CC=C(C=C1)CO)C | C24H28O
reactant | Magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | manganese oxide | 39.2 mmol, 3.4 g | [O-2].[Mn+2]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzaldehyde | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#CC1=CC=C(C=O)C=C1)C | C24H26O
